US05686643
Bis(dimethylaminoethyl)carbonate (I)
Into a flask equipped with a reflux cooler, a water separator and a dropping funnel, there were charged 113.5 grams (1.25 moles) of dimethyl carbonate. The substance was heated to 80° C. A solution of 1.4 grams (0.025 moles) of potassium hydroxide in 225.0 grams (2.5 moles) of dimethylethanolamine was then added in drops over a period of 30 minutes. The methanol formed during the reaction was removed by azeotropic distillation using cyclohexane as an entraining agent.

reactant | water | O | H2O
reactant | dimethyl carbonate | 1.25 moles, 113.5 grams | C(OC)(OC)=O | C3H6O3
reactant | potassium hydroxide | 0.025 moles, 1.4 grams | [OH-].[K+]
reactant | dimethylethanolamine | 2.5 moles, 225.0 grams | CN(CCO)C | C4H11NO
solvent | methanol | CO | CH4O
product | Bis(dimethylaminoethyl)carbonate | CN(C)CCOC(OCCN(C)C)=O | C9H20N2O3
